US05559111
m) 2-Benzyloxy-4-tert-butyl-benzyl alcohol
A solution of 6.44 g of 2-benzyloxy-4-tert-butylbenzoic acid benzyl ester in 10 ml of tetrahydrofuran is slowly added dropwise to a suspension, stirred at room temperature, of 0.47 g of LiAlH4 in 40 ml of tetrahydrofuran. The reaction mixture is stirred for a further 4 hours at room temperature and then, in succession, 0.96 ml of ethyl acetate, 6.4 ml of tetrahydrofuran/water=1:1 and 9.6 ml of 2N H2SO4 are added dropwise thereto. The suspension is partitioned between ethyl acetate and water/saturated sodium chloride solution, the organic phases are concentrated by evaporation and the residue is purified by means of FC (150 g of silica gel, dichloromethane/hexane=6:4). Title compound: Rf (dichloromethane/hexane=8:2)=0.24.

reactant | 2-benzyloxy-4-tert-butylbenzoic acid benzyl ester | 6.44 g | C(C1=CC=CC=C1)OC(C1=C(C=C(C=C1)C(C)(C)C)OCC1=CC=CC=C1)=O | C25H26O3
reactant | LiAlH4 | 0.47 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl acetate | 0.96 ml | C(C)(=O)OCC | C4H8O2
reactant | H2SO4 | 2N, 9.6 ml | OS(=O)(=O)O | H2O4S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran water | 6.4 ml | O1CCCC1.O
product | 2-Benzyloxy-4-tert-butyl-benzyl alcohol | C(C1=CC=CC=C1)OC1=C(CO)C=CC(=C1)C(C)(C)C | C18H22O2
